US06476026B1
A solution comprised of 2-tert-butoxycarbonylamino-4-methylvaleric acid (5 g, 30 mmol) in DMF (20 mL) was cooled in an ice bath and then aminoacetonitrile hydrochloride (3 g, 30 mmol), PyBOP® (11.25 g, 21 mmol) and triethylamine (6 mL, 60 mmol) were added sequentially to the solution. The mixture was stirred for 2 hours and then concentrated under vacuum. The residue was partitioned between ethyl acetate (50 mL) and saturated sodium bicarbonate (40 mL). The organic layer was separated, washed with water, 1M hydrochloric acid (20 mL), water and brine, dried (MgSO4) and concentrated under reduced pressure. Product was purified from the residue using a plug of silica with ethyl acetate as the eluant to provide tert-butyl 1-cyanomethylcarbamoyl-3-methylbutylcarbamate.

reactant | 2-tert-butoxycarbonylamino-4-methylvaleric acid | 30 mmol, 5 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CC(C)C | C11H21NO4
reactant | aminoacetonitrile hydrochloride | 30 mmol, 3 g | Cl.NCC#N
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 60 mmol, 6 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-butyl 1-cyanomethylcarbamoyl-3-methylbutylcarbamate | C(#N)CNC(=O)C(CC(C)C)NC(OC(C)(C)C)=O | C13H23N3O3
